US04618682
2-Amino-4,5-dihydro-N-(4-methoxyphenyl)-1H-imidazole-1carboxamide Monohydrochloride
A suspension of 21.3 g (0.1 mole) of 2-iminoimidazolidine HI in 250 ml THF was treated with 8 g (0.1 mole) of 50% NaOH solution and stirred for 0.5 hour. Ten grams of anhydrous Na2SO4 were added and the mixture stirred another 0.5 hour. After cooling to -20° C. (it was necessary to maintain a temperature of -20° C. at all times while compound was in free base form to avoid isomerization) under N2, 7.45 g (0.05 mole) of 4-methoxyphenyl isocyanate in 60 ml THF was added dropwise over a 2.5-hour period, maintaining -20° C. The mixture was stirred an additional hour, then the inorganics were filtered off and the solvent was removed in vacuo, cold, to yield a yellow oil, which was stirred in 200 ml cold brine and extracted with 3×100 ml portions of cold CH2Cl2. The CH2Cl2 extracts were dried over anhydrous K2C03, filtered, and the filtrate was acidified to pH<3 with cold excess ethereal HCl, adding MeOH to dissolve any solid which formed. The solution was stored in a freezer overnight. The solvent and excess HCl were removed in vacuo to yield 11.40 g of a yellow-white solid, which was recrystallized from MeOH/Et2O, converted to the free base and back to the HCl salt, and, finally, recrystallized from MeOH/Et2O to yield 3.24 g of pure hydrochloride salt, m.p. 199°-201° C. (dec.), a white solid.

reactant | 2-iminoimidazolidine HI | 0.1 mole, 21.3 g | N=C1NCCN1.I
reactant | NaOH | 0.1 mole, 8 g | [OH-].[Na+]
reactant | Na2SO4 | Ten grams | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 4-methoxyphenyl isocyanate | 0.05 mole, 7.45 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | brine | 200 ml | [Cl-].[Na+].O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-Amino-4,5-dihydro-N-(4-methoxyphenyl)-1H-imidazole-1carboxamide Monohydrochloride | 11.40 g | Cl.NC=1N(CCN1)C(=O)NC1=CC=C(C=C1)OC | InChI=1S/C11H14N4O2.ClH/c1-17-9-4-2-8(3-5-9)14-11(16)15-7-6-13-10(15)12;/h2-5H,6-7H2,1H3,(H2,12,13)(H,14,16);1H
